US07943619B2
6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethylamide
As described for example 50, 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (143 mg, 0.4 mmol) was converted, using ethylamine instead of methylamine, to the title compound (87 mg, 61%) which was obtained as a white solid. MS: m/e=357.3 [M+H]+.

reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 0.4 mmol, 143 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F | C18H16FN3O4
reactant | ethylamine | C(C)N | C2H7N
product | 6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethylamide | 87 mg, 61% | C(C)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F | C18H17FN4O3
